US04371644
2,2-bis[4-{3-[4-(N-butylacetamido)-2,2,6,6-tetramethylpiperidino]-2-hydroxypropoxy}phenyl]propane (Compound No. 234)
To 20 ml of t-butanol were added 5.0 g of 4-(N-butylacetamido)-2,2,6,6-tetramethylpiperidine and 2.8 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane, and the mixture was reacted following the procedure described in Example 1 to give the desired Compound No. 234 in the form of a white vitreous mass. The compound had an Rf value of 0.54 on thin-layer chromatography on silica gel developed with a 20:1 by volume mixture of ethyl acetate and triethylamine.

reactant | 4-(N-butylacetamido)-2,2,6,6-tetramethylpiperidine | 5.0 g | C(CCC)N(C(C)=O)C1CC(NC(C1)(C)C)(C)C | C15H30N2O
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 2.8 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
solvent | t-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 2,2-bis[4-{3-[4-(N-butylacetamido)-2,2,6,6-tetramethylpiperidino]-2-hydroxypropoxy}phenyl]propane | C(CCC)N(C(C)=O)C1CC(N(C(C1)(C)C)CC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(CC(CC1(C)C)N(C(C)=O)CCCC)(C)C)O)O)(C)C | C51H84N4O6
